US07790793B2
Preparation of N-(t-octyl)-3,5-bis-(isobutyrylamino)-benzamide according to Method B
In analogy to Example II-3, 6.7 g (51%) of compound (ZZZe) are obtained as a slightly grey solid from 8.2 g (0.031 mol) of 3,5-dinitro-(N-t-octyl)-benzamide (compound WWWb), 75 ml of NMP, 0.5 g of Pd/C (10% Pd) and 14.7 g (0.093 mol) of isobutyric anhydride.

reactant | 3,5-dinitro-(N-t-octyl)-benzamide | 0.031 mol, 8.2 g | [N+](=O)([O-])C=1C=C(C(=O)NC(C)(C)CC(C)(C)C)C=C(C1)[N+](=O)[O-] | C15H21N3O5
reactant | isobutyric anhydride | 0.093 mol, 14.7 g | C(C(C)C)(=O)OC(C(C)C)=O | C8H14O3
catalyst | Pd/C | 0.5 g | [Pd] | Pd
solvent | NMP | 75 ml | CN1CCCC1=O | C5H9NO
product | N-(t-octyl)-3,5-bis-(isobutyrylamino)-benzamide | C(C)(C)(CC(C)(C)C)NC(C1=CC(=CC(=C1)NC(C(C)C)=O)NC(C(C)C)=O)=O | C23H37N3O3
